US06194409B1
40b. (1-Amino-6-isoquinolinyl)carboxylic acid hydrochloride
A mixture of 445 mg [1-(benzoylamino)-6-isoquinolinyl]carboxylic acid, 10 mL of acetic acid and 20 mL of 4N hydrochloric acid was heated at 100° C. for one day. The reaction mixture was concentrated and coevaporated with 0.5N hydrochloric acid. The resulting residue was triturated with diethyl ether to yield 341 mg of the title compound.

reactant | [1-(benzoylamino)-6-isoquinolinyl]carboxylic acid | 445 mg | C(C1=CC=CC=C1)(=O)NC1=NC=CC2=CC(=CC=C12)C(=O)O | C17H12N2O3
reactant | hydrochloric acid | 4N, 20 mL | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (1-Amino-6-isoquinolinyl)carboxylic acid hydrochloride | 341 mg | Cl.NC1=NC=CC2=CC(=CC=C12)C(=O)O | InChI=1S/C10H8N2O2.ClH/c11-9-8-2-1-7(10(13)14)5-6(8)3-4-12-9;/h1-5H,(H2,11,12)(H,13,14);1H
